US08835434B2
Ac2O (77.0 mL, 816 mmol) was added to (R)-4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine 1-oxide (21.0 g, 62.8 mmol). The reaction mixture was heated under nitrogen in a 90° C. sand bath and stirred for 100 minutes. The reaction mixture was cooled to room temperature, and excess acetic anhydride was removed by rotary evaporation. The resulting oil was dissolved in DCM, which was then poured carefully into ice saturated Na2CO3. The mixture was extracted with DCM, and the combined extracts were dried (Na2SO4), filtered and concentrated to give (5R)-tert-butyl 4-(7-acetoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (23.6 g, 100%) as a foam. LC/MS (APCI+) m/z 377.1 [M+H]+.

reactant | Ac2O | 816 mmol, 77.0 mL | CC(=O)OC(=O)C | C4H6O3
reactant | (R)-4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine 1-oxide | 62.8 mmol, 21.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=[N+](C=N1)[O-])CC[C@H]2C | C17H26N4O3
product | (5R)-tert-butyl 4-(7-acetoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 23.6 g, 100% | C(C)(=O)OC1C[C@H](C2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C)C | C19H28N4O4
